US07482462B2
120 μl of DIEA are added to a solution of 102 mg of 3-(carboxy-cyano-methylene)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester, 162 mg of 4-bromo-2,5-dichloro-thiophene-3-sulfonamide, 583 μl of PPA in DMF (50%) and 43 mg of DMAP in 4 ml of DMA, and the mixture obtained is stirred at RT for 48 hours. From the mixture obtained solvent is removed in vacuo and the residue obtained is subjected to preparative HPLC on an RP-18 column. 3-[2-(4-Bromo-2,5-dichloro-thiophene-3-sulfonylamino)-1-cyano-2-oxo-ethylidene]-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester in the form of a foam is obtained.

reactant | DIEA | 120 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(carboxy-cyano-methylene)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 102 mg | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=C(C#N)C(=O)O | C15H20N2O4
reactant | 4-bromo-2,5-dichloro-thiophene-3-sulfonamide | 162 mg | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)N | C4H2BrCl2NO2S2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | 43 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMA | 4 ml | CC(=O)N(C)C | C4H9NO
product | 3-[2-(4-Bromo-2,5-dichloro-thiophene-3-sulfonylamino)-1-cyano-2-oxo-ethylidene]-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=C(C(=O)NS(=O)(=O)C2=C(SC(=C2Br)Cl)Cl)C#N | C19H20BrCl2N3O5S2
